US05212320
A mixture of ethyl 4-[3-(4-hydroxybenzoyl)indol-1-yl]butyrate (0.50 g), 1-bromo-2,2-dimethyl-1-(4isobutylphenyl)propane (0.74 g) and potassium carbonate (0.59 g) in N,N-dimethylformamide (10 ml) was stirred at 60° C. for 20 hours. The reaction mixture was filtered, and the filtrate was poured into a mixture of ethyl acetate and 0.5N hydrochloric acid. The organic layer was separated, washed with water, and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting a mixture of n-hexane and ethyl acetate (5:1) to give ethyl 4-[3-[4-[2,2-dimethyl-1-(4-isobutylphenyl)propyloxy]benzoyl]indol-1-yl]butyrate (376 mg) as an oil.

reactant | ethyl 4-[3-(4-hydroxybenzoyl)indol-1-yl]butyrate | 0.50 g | OC1=CC=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1 | C21H21NO4
reactant | 1-bromo-2,2-dimethyl-1-(4isobutylphenyl)propane | 0.74 g | BrC(C(C)(C)C)C1=CC=C(C=C1)CC(C)C | C15H23Br
reactant | potassium carbonate | 0.59 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[3-[4-[2,2-dimethyl-1-(4-isobutylphenyl)propyloxy]benzoyl]indol-1-yl]butyrate | 376 mg | CC(C(OC1=CC=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)C1=CC=C(C=C1)CC(C)C)(C)C | C36H43NO4
